US09328110B2
To a stirred solution of ethyl 4-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butanoate (15.4 g, 45.1 mmol) in dichloromethane (150 mL) at 0° C. was added mCPBA (approximately 77% purity, 19.7 g, 87.9 mmol) in portions. The reaction mixture was stirred at room temperature for 1.5 hours, then concentrated ammonium hydroxide (50 mL) was added. p-Toluenesulfonyl chloride was added in portions to the mixture, which was stirred for 1 hour then filtered. The filtrate was transferred to a separatory funnel, saturated aqueous sodium bicarbonate (50 mL) was added and the layers were separated. The aqueous layer was extracted with dichloromethane (2×50 mL). The organic layers were combined, washed with 5% aqueous sodium hydroxide (2×75 mL), dried over potassium carbonate, filtered, and concentrated under reduced pressure to yield a brown solid that was slurried in ethyl acetate (50 mL) and filtered. The filtrate was concentrated under reduced pressure and the solid was recrystallized from ethanol/water four times, then was dissolved in dichloromethane (100 mL). The solution was washed with saturated aqueous sodium bicarbonate (2×50 mL), then was concentrated under reduced pressure to yield a solid that was recrystallized from ethanol/water three times. The crystals were dried in a vacuum oven at 70° C. to provide ethyl 4-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butanoate as pale yellow crystals, mp 129-131° C.

reactant | ethyl 4-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butanoate | 45.1 mmol, 15.4 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(=O)OCC | C19H23N3O3
reactant | mCPBA | 87.9 mmol, 19.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butanoate | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC(=O)OCC)COCC | C19H24N4O3
